US04028376
To a solution of 1-methyl-3-(3-t-butyl-5-isoxazolyl)-urea (0.99 g) in pyridine (8 ml), butylsulfenyl chloride (0.67 g) is added dropwise at -30° to -40° C., and the resultant mixture is stirred at the same temperature for 6 hours. The reaction mixture is allowed to stand at room temperature overnight, poured into ice water and shaken with benzene. The organic layer is washed with 3% hydrochloric acid, 5% aqueous sodium bicarbonate solution and water in that order, dried over anhydrous sodium sulfate and evaporated to remove the solvent. The residue is chromatographed on a column of silica gel, whereby 1-methyl-1-butylthio-3-(3-t-butyl-5-isoxazolyl)urea (0.031 g) is obtained as an oil. IR: 1712, 1617 cm-1 (CC14).

reactant | 1-methyl-3-(3-t-butyl-5-isoxazolyl)-urea | 0.99 g | CNC(=O)NC1=CC(=NO1)C(C)(C)C | C9H15N3O2
reactant | butylsulfenyl chloride | 0.67 g | C(CCC)SCl | C4H9ClS
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | 1-methyl-1-butylthio-3-(3-t-butyl-5-isoxazolyl)urea | 0.031 g | CN(C(=O)NC1=CC(=NO1)C(C)(C)C)SCCCC | C13H23N3O2S
